US08106070B2
2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (1 mL, 4 mmol) was added to an ambient temperature solution of 4-(2,2-dimethylpropyl)-2-{2-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (20 mg, 0.04 mmol) in methanol (2 mL). After stirring at 70° C. for 1 h, volatiles were removed. The residue was partitioned between methanol/ethyl acetate and 10% aqueous sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% acetone/methylene chloride then with 0-100% acetone/methylene chloride afforded the title compound. (M+H) found: 386.

reactant | Hydrogen chloride | 4 mmol, 4 M, 1 mL | Cl | ClH
reactant | 4-(2,2-dimethylpropyl)-2-{2-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.04 mmol, 20 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=C(C=C(C=C1)C1=NC=C(C=C1)F)F)(C)O)(C)C | C24H30F2N4O3S
solvent | methanol | 2 mL | CO | CH4O
product | 2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1)C(CC1=C(C=C(C=C1)C1=NC=C(C=C1)F)F)(C)O)(C)C | C22H25F2N3O
